US07439393B2
i) (5R)-5-(2,2-Dimethyl-4H-1,3-benzodioxin-6-yl)-3-(6-{2-([3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]methoxy)ethoxy}hexyl)-1,3-oxazolidin-2-one
A stirred mixture of (5R)-5-(2,2-dimethyl-4H-1,3-benzodioxin-6-yl)-3-{6-[2-{(3-iodophenyl)methoxy}ethoxy]hexyl}-1,3-oxazolidin-2-one (1.3 g), bis(pinacolato)diboron (0.94 g), potassium acetate (0.62 g) and [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) (complex with dichloromethane 1:1, 100 mg) in DMF (25 ml) under nitrogen was heated at 90° for 3.5 h. The mixture was cooled to 20°, poured into water (400 ml) and extracted with EtOAc (3×50 ml). The extracts were washed with water (200 ml), dried (MgSO4) and evaporated in vacuo to give a residue which was purified by Biotage. Elution with diethyl ether-PE (4:1) gave the title compound (920 mg). LCMS RT=3.93 min, ES+ve 610 (MH)+.

reactant | (5R)-5-(2,2-dimethyl-4H-1,3-benzodioxin-6-yl)-3-{6-[2-{(3-iodophenyl)methoxy}ethoxy]hexyl}-1,3-oxazolidin-2-one | 1.3 g | CC1(OCC2=C(O1)C=CC(=C2)[C@@H]2CN(C(O2)=O)CCCCCCOCCOCC2=CC(=CC=C2)I)C | C28H36INO6
reactant | bis(pinacolato)diboron | 0.94 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 0.62 g | C(C)(=O)[O-].[K+]
reactant | water | 400 ml | O | H2O
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) | 100 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | (5R)-5-(2,2-Dimethyl-4H-1,3-benzodioxin-6-yl)-3-(6-{2-([3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]methoxy)ethoxy}hexyl)-1,3-oxazolidin-2-one | 920 mg | CC1(OCC2=C(O1)C=CC(=C2)[C@@H]2CN(C(O2)=O)CCCCCCOCCOCC2=CC(=CC=C2)B2OC(C(O2)(C)C)(C)C)C | C34H48BNO8
